US09029544B2
((3R,9S)-9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-4-yl)methanol
1.28 g (3R,9S)-methyl 9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-4-carboxylate are dissolved in 10 ml tetrahydrofurane cooled to −10° C. and treated dropwise with 1.2 ml of a 1 M solution of lithiumaluminium hydride in tetrahydrofurane. The mixture is warmed to room temperature and stirred for 1 hour. Then it is diluted with diethylether and treated under vigorous stirring with 1 M hydrochloric acid. The organic phase is separated, dried with magnesium sulphate and evaporated in vacuo. The residue is chromatographed on silica gel (petrole ether/ethylacetate 70:30 to 40:60).

reactant | (3R,9S)-methyl 9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-4-carboxylate | 1.28 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)C(=O)OC)[C@H](OC31CCOCC1)C1=CC=C(C=C1)C(F)(F)F | C32H42F3NO5Si
reactant | lithiumaluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofurane | 10 ml | O1CCCC1 | C4H8O
solvent | diethylether | C(C)OCC | C4H10O
product | ((3R,9S)-9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-4-yl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)CO)[C@H](OC31CCOCC1)C1=CC=C(C=C1)C(F)(F)F | C31H42F3NO4Si
